US06645997B2
Step D: Ethyl 7-(3-bromopropoxy)-2-ethylchromane-2-carboxylate
To a 100 ml CH3CN solution of ethyl 7-(3-hydroxypropoxy)-2-ethylchromane-2-carboxylate (2.88 g, 9.4 mmol) was added triphenylphosphine (3.21 g, 12.2 mmol) and carbon tetrabromide (4.05 g, 12.2 mmol) upon cooling in an ice-water bath. After stirring at rt for 1 hr, the solvent was removed under reduced pressure. The residue was suspended in dichloromethane and was charged onto a silica gel column. Elution with 10% AcOEt/hexanes gave the title compound 3.36 g (96%).

reactant | ethyl 7-(3-hydroxypropoxy)-2-ethylchromane-2-carboxylate | 9.4 mmol, 2.88 g | OCCCOC1=CC=C2CCC(OC2=C1)(C(=O)OCC)CC | C17H24O5
reactant | triphenylphosphine | 12.2 mmol, 3.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 12.2 mmol, 4.05 g | C(Br)(Br)(Br)Br | CBr4
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | Ethyl 7-(3-bromopropoxy)-2-ethylchromane-2-carboxylate | 3.36 g, 96% | BrCCCOC1=CC=C2CCC(OC2=C1)(C(=O)OCC)CC | C17H23BrO4
